US04523030
Over a period of 30 minutes, while stirring, a solution of 1.92 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester in 30 ml of ether is added dropwise to a suspension of 0.21 g of lithium aluminium hydride in 30 ml of ether. The whole is stirred for 1 hour, a further 1.0 g of lithium aluminium hydride is added and stirring is carried out for a further 2 hours. 5 ml of water and, after a short time, 12.5 ml of 2N sulphuric acid are added dropwise thereto, stirring is carried out for 30 minutes and the ether phase is separated off, shaken twice with ether, dried over magnesium sulphate and concentrated to dryness by evaporation. 5-methoxybenzocyclobutene-1-methanol is obtained in the form of a colourless oil.

reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 1.92 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | lithium aluminium hydride | 0.21 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
reactant | sulphuric acid | 2N, 12.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 5-methoxybenzocyclobutene-1-methanol | COC=1C=CC2=C(C(=C2)CO)C1 | C10H10O2
